US06569863B1
(e). 4-Hydroxyethyl-5-methyl-2-phenylimidazole
A solution of 4-ethoxycarbonylmethyl-5-methyl-2-phenylimidazole (19.7 g) in tetrahydrofuran (100 ml) was added dropwise (in 45 min) to lithium aluminium hydride (10 g) in tetrahydrofuran (150 ml). After 2 h refluxing the reaction mixture was allowed to stand overnight at r.t. It was cooled in an ice bath and water (40 ml) and tetrahydrofuran (50 ml) were added. The solids were filtered off and washed with diethylether.

reactant | 4-ethoxycarbonylmethyl-5-methyl-2-phenylimidazole | 19.7 g | C(C)OC(=O)CC=1N=C(NC1C)C1=CC=CC=C1 | C14H16N2O2
reactant | lithium aluminium hydride | 10 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | water | 40 ml | O | H2O
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 150 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
product | 4-Hydroxyethyl-5-methyl-2-phenylimidazole | OCCC=1N=C(NC1C)C1=CC=CC=C1 | C12H14N2O
